US06956017B1
Synthesis of the Adduct of imidazole/piperazine/epi, in a Ratio 1.0/3.0/4.0 100% oxidized
68.8 g (1.0 mole) of limidazole and 260.6 g (3.0 mole) of piperazine were solved in 700.2 g of water and at a temperature of 50-60° C. 370 g (4.0 mole) of epichlorhydrin were added dropwise. After the addition was complete, the reaction mixture was stirred for additional 5 hours at 80° C. To 237 g of this product (equivalent to 1,022 mole of oxidizable nitrogen atoms) 80.7 g (1.12 mole) of a 47.2% solution of H2O2 in water were added over a period of 5 hours at 40° C. After that the mixture was heated to 50-60° C. until the theoretical amount of H2O2 had been consumed. Unreacted H2O2 was destroyed by using Pt/C and the solution then filtered.

reactant | piperazine | 3.0 mole, 260.6 g | N1CCNCC1 | C4H10N2
reactant | epichlorhydrin | 4.0 mole, 370 g | C(Cl)C1CO1 | C3H5ClO
reactant | H2O2 | OO | H2O2
solvent | water | 700.2 g | O | H2O
product | imidazole piperazine | N1C=NC=C1.N1CCNCC1 | InChI=1S/C4H10N2.C3H4N2/c1-2-6-4-3-5-1;1-2-5-3-4-1/h5-6H,1-4H2;1-3H,(H,4,5)
